US07960563B2
5-Fluoro-1-(3-fluoro-4-hydroxyphenyl)-1H-indazol-4-ol (E10)
A solution of 5-fluoro-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-1H-indazol-4-ol (D17) (610 mg, 1.731 mmol) in ethanol (20 mL) was hydrogenated with 10% palladium on carbon (0.25 g, 2.349 mmol) at room temperature for 2 hrs. The mixture was filtered, concentrated and chromatographed (0-100% EtOAc in hexane) to give the title compound (E10) as an off white solid (290 mg)

reactant | 5-fluoro-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-1H-indazol-4-ol | 1.731 mmol, 610 mg | FC1=C(C=2C=NN(C2C=C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F)O | C20H14F2N2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.349 mmol, 0.25 g | [Pd] | Pd
product | 5-Fluoro-1-(3-fluoro-4-hydroxyphenyl)-1H-indazol-4-ol | FC1=C(C=2C=NN(C2C=C1)C1=CC(=C(C=C1)O)F)O | C13H8F2N2O2
